US08604061B2
b) (2R,5S)-2-Isopropyl-3,6-dimethoxy-5-((S)-2-phenyl-butyl)-2,5-dihydro-pyrazine
A solution of (R)-(−)-2,5-dihydro-3,6-dimethoxy-2-isopropyl-5-methylpyrazine (4.25 g, 23.1 mmol) in tetrahydrofuran (30 ml) was cooled to −78° C., then n-butyllithium (1.6 M in hexane, 15.1 ml, 24.2 mmol) was added and the mixture was stirred for 1 hour. A solution of ((R)-1-iodomethyl-propyl)-benzene (6.30 g, 24.2 mmol) in tetrahydrofuran (30 ml) was added dropwise over 30 min and the mixture was stirred overnight while being allowed to warm slowly from −70° C. to room temperature. The reaction was quenched by addition of saturated aqueous ammonium chloride solution and the mixture was extracted with ether. The organic layer was separated, washed with saturated brine, then dried over Na2SO4 and concentrated in vacuo. The residue was purified by column chromatography (SiO2, heptane/EtOAc) to yield a light yellow oil (4.69 g, 64%); MS (ISP): 317.0 ([M+H]+).

reactant | (R)-(−)-2,5-dihydro-3,6-dimethoxy-2-isopropyl-5-methylpyrazine | 23.1 mmol, 4.25 g | COC=1[C@H](N=C(C(N1)C)OC)C(C)C | C10H18N2O2
reactant | n-butyllithium | 24.2 mmol, 1.6 M, 15.1 ml | C(CCC)[Li]
reactant | ((R)-1-iodomethyl-propyl)-benzene | 24.2 mmol, 6.30 g | IC[C@H](CC)C1=CC=CC=C1 | C10H13I
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (2R,5S)-2-Isopropyl-3,6-dimethoxy-5-((S)-2-phenyl-butyl)-2,5-dihydro-pyrazine | 4.69 g, 64% | C(C)(C)[C@H]1N=C([C@@H](N=C1OC)C[C@H](CC)C1=CC=CC=C1)OC | C19H28N2O2
